US05318966
4.0 g (0.01525 mol) of ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate were dissolved in 80 ml of toluene, 2.02 ml (0.016 mol) of 2-phenylethylamine were added thereto and the mixture was boiled for 20 hours on a water separator. After concentration the residue was hydrogenated with 1.5 g of Raney-nickel in 150 ml of ethanol at 70° and 80 bar for 10 hours. The product was chromatographed over silica gel with cyclohexane/ethyl acetate 1:1. The product was crystallized in hexane/ethyl acetate. There were obtained 3.13 g (64%) of rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-phenethyl-2H-benzo[e]indol-2-one as white crystals with m.p. 89°-90°.

reactant | ethyl 1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-naphthylacetate | 0.01525 mol, 4.0 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 2-phenylethylamine | 0.016 mol, 2.02 ml | C1(=CC=CC=C1)CCN | C8H11N
reactant | water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-1,3,3a,4,5,9b-hexahydro-6-methoxy-3-phenethyl-2H-benzo[e]indol-2-one | 3.13 g, 64% | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCC2=CC=CC=C2)=O | C21H23NO2
